US07485732B2
Methyl{1-[bis(4-chlorophenyl)methyl]azetidin-3-yl}(3,5-difluorophenyl)acetate
To a solution of 5.0 g (10.54 mmol) of methyl{1-[bis(4-chlorophenyl)methyl]azetidin-3-ylidene}(3,5-difluorophenyl)acetate in 60 mL of MeOH and 15 mL of CH2Cl2 was slowly added 798 mg (21.08 mmol) of NaBH4. The solution was stirred for 5 h at 0° C., then poured into 250 mL of ether and washed with 50 mL of aq NaHCO3. The organic layer was dried over Na2SO4 and concentrated. The residue was purified by silica gel chromatography with hexanes/ethyl acetate to afford the title compound; 1NMR(CDCl3) δ 2.68 (m, 1H), 2.92 (m, 1H), 3.10-3.15 (m, 2H), 3.44 (m, 1H)3.69 (s, 3H), 3.86 (d, J=11 Hz, 1H), 4.30 (s, 1H), 6.74 (m, 1H), 6.85 (m, 2H), 7.24-7.34 (m, 8H); Mass Spectrum: m/e=476 (M+1 35Cl, 35Cl) and 478 (M+1 35Cl, 37Cl).

reactant | methyl{1-[bis(4-chlorophenyl)methyl]azetidin-3-ylidene}(3,5-difluorophenyl)acetate | 10.54 mmol, 5.0 g | COC(C(C1=CC(=CC(=C1)F)F)=C1CN(C1)C(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl)=O | C25H19Cl2F2NO2
reactant | NaBH4 | 21.08 mmol, 798 mg | [BH4-].[Na+]
reactant | ether | 250 mL | CCOCC | C4H10O
solvent | MeOH | 60 mL | CO | CH4O
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | Methyl{1-[bis(4-chlorophenyl)methyl]azetidin-3-yl}(3,5-difluorophenyl)acetate | COC(C(C1=CC(=CC(=C1)F)F)C1CN(C1)C(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl)=O | C25H21Cl2F2NO2
